US04548935
A solution of 2-(2-aminoethyl)-5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole (0.52 g), triethylamine (0.5 ml) and 4,6-dichloropyrimidine (0.16 g) in ethanol (20 ml) was heated under reflux for 23 hours and then evaporated. The residue was purified by chromatography on silica (8 g) using dichloromethane plus from 0 to 100% by volume of ethyl acetate as eluant. Appropriate fractions were combined and evaporated to give 2-{[(6-chloro-4-pyrimidinyl)amino]ethyl}-5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole (0.51 g) as a colourless foam. A solution of this crude product in morpholine (3 ml) was heated on a steam-bath for 90 minutes and then partitioned between 2M hydrochloric acid and dichloromethane. The acidic layer was extracted into dichloromethane and the combined organic layers were washed with water and 10% aqueous sodium carbonate solution, dried over anhydrous sodium sulphate and evaporated. The residue was purified by chromatography on silica (10 g) using dichloromethane plus from 0 to 50% by volume of ethyl acetate followed by dichloromethane plus from 1 to 5% by volume of methanol as eluant. Appropriate fractions were combined and evaporated. The residual oil was triturated with diethyl ether and the resulting solid collected, washed with diethyl ether and dried to give the title compound (0.51 g), m.p. 160°-162° C. Found: C,52.24; H,5.20; N,18.24. C30H35Cl2N9O6 requires: C,52.33; H,5.09; N,18.31%.

reactant | 2-(2-aminoethyl)-5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole | 0.52 g | NCCN1N=C(N=N1)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C22H26Cl2N6O5
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloropyrimidine | 0.16 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-{[(6-chloro-4-pyrimidinyl)amino]ethyl}-5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}tetrazole | 0.51 g | ClC1=CC(=NC=N1)NCCN1N=C(N=N1)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C26H27Cl3N8O5
